US05508280
5-(2'-BENZYLAMINO-ETHYLIDENE)-5H-DIBENZO[a,d]CYCLOHEPTENE
To a solution of 5-(2'-chloroethylidene)-5H dibenzo[a,d]cycloheptene (1.25 g, 5 mmol) in acetonitrile (30 ml) is added benzylamine (1.6 g, 15 mmol) and the mixture is refluxed for 4 hours under argon atmosphere. The solution is concentrated in vacuo, the residue is taken up in water, and the solution is basified with concentrated aqueous sodium bicarbonate. The water phase is extracted with ethyl acetate. The organic mixture is dried over magnesium sulfate, filtered and concentrated in vacuo. The residue (1.2 g) is dissolved in ether and a solution of oxalic acid (0.5 g) in tetrahydrofuran is added. The oxalate salt precipitates, and is recrystallized twice from ethanol, m.p. 209° C.

reactant | 5-(2'-chloroethylidene)-5H dibenzo[a,d]cycloheptene | 5 mmol, 1.25 g | ClCC=C1C2=C(C=CC3=C1C=CC=C3)C=CC=C2 | C17H13Cl
reactant | benzylamine | 15 mmol, 1.6 g | C(C1=CC=CC=C1)N | C7H9N
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 5-(2'-BENZYLAMINO-ETHYLIDENE)-5H-DIBENZO[a,d]CYCLOHEPTENE | C(C1=CC=CC=C1)NCC=C1C2=C(C=CC3=C1C=CC=C3)C=CC=C2 | C24H21N
